US05556863
Preparation of 3-butyryl-4-(2-chlorophenylamino)-8(3-methylsulfinylpropoxy)quinoline
3-butyryl-4-(2-chlorophenylamino)-8-(3-methylthiopropoxy)quinoline (0.31 g, 0.72 mmol) was dissolved in methylene chloride (10 ml), 5 ml water was added and then a solution of 1.5 ml (1.09 mmol) of 5% NaOCl in 10 ml methylene chloride was added. The mixture was stirred for 4 h at room temperature. The organic phase was separated and evaporated. Chromatography with methylene chloride: methanol 95:5 as the eluent gave 0.104 g (32%) of the title compound.

reactant | 3-butyryl-4-(2-chlorophenylamino)-8-(3-methylthiopropoxy)quinoline | 0.72 mmol, 0.31 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)Cl)OCCCSC | C23H25ClN2O2S
reactant | water | 5 ml | O | H2O
reactant | NaOCl | 1.09 mmol, 1.5 ml | [O-]Cl.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-butyryl-4-(2-chlorophenylamino)-8(3-methylsulfinylpropoxy)quinoline | 0.104 g, 32% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)Cl)OCCCS(=O)C | C23H25ClN2O3S
